US06166006
Under argon atmosphere, a mixture of 7-(trifluoromethanesulfoxy)-1-tetralone (9.02 g), 4-methylphenyl borate (5.00 g), potassium carbonate (8.46 g), toluene (300 ml), ethanol (30 ml) and water (30 ml) was stirred at room temperature for 30 minutes, and to the mixture was added tetrakis(triphenylphosphine)palladium (1.06 g). The mixture was refluxed for 14 hours. The reaction mixture was cooled to room temperature. The organic layer was separated, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/toluene=1/10) to give 7-(4-methylphenyl)-1-tetralone (5.23 g) as colorless crystals.

reactant | 4-methylphenyl borate | 5.00 g | B(OC1=CC=C(C=C1)C)([O-])[O-]
reactant | potassium carbonate | 8.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 1.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 ml | O | H2O
product | 7-(4-methylphenyl)-1-tetralone | 5.23 g | CC1=CC=C(C=C1)C1=CC=C2CCCC(C2=C1)=O | C17H16O
